US05358949
10 Grams of diethyl 2-acetylamino-2-(2-nitro-3-methylbenzyl)malonate and 1 g of 10% Pd-C were suspended in 50 ml of acetic acid, and the suspension was catalytically reduced under 3 to 3.5 atmospheric pressure at 60° to 70° C. by hydrogenation. After the hydrogenation was finished, the catalyst was removed by filtration, and the solvent was removed by evaporation. The residue thus obtained was recrystallized from ethanol to obtain 2.7 g of ethyl 3-acetylamino-8-methyl-3,4-dihydrocarbostyril-3-carboxylate. White powdery substance. Melting point: 236.5°-238.5° C.

reactant | diethyl 2-acetylamino-2-(2-nitro-3-methylbenzyl)malonate | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=C(C(=CC=C1)C)[N+](=O)[O-] | C17H22N2O7
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | Pd-C | 1 g | [Pd] | Pd
product | ethyl 3-acetylamino-8-methyl-3,4-dihydrocarbostyril-3-carboxylate | 2.7 g | C(C)(=O)NC1(C(NC2=C(C=CC=C2C1)C)=O)C(=O)OCC | C15H18N2O4
